US06162809
a) 2,6-Dimethyl-4-(3-hydroxypropylthio)pyridine-N-oxide
12 g of (60% strength) NaH are added in portions to 50 ml of dry N-methylpyrrolidone (NMP). The mixture is stirred for 10 min. 19 g (0.22 mol) of 3-hydroxypropyl mercaptan are metered in the course of 30 min and the mixture is stirred for a further 30 min until evolution of gas has ended. A solution of 28.8 g (0.2 mol) of 4-chloro-2,6-dimethylpyridine-N-oxide in 150 ml of NMP is then added dropwise in the course of 30 min, and the reaction mixture is stirred for 1 h at RT, then for 1 h at 70° C. and after this for a further 1 h at 100° C.

reactant | NaH | [H-].[Na+]
reactant | 3-hydroxypropyl mercaptan | 0.22 mol, 19 g | OCCCS | C3H8OS
reactant | 4-chloro-2,6-dimethylpyridine-N-oxide | 0.2 mol, 28.8 g | ClC1=CC(=[N+](C(=C1)C)[O-])C | C7H8ClNO
solvent | NMP | 150 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 2,6-Dimethyl-4-(3-hydroxypropylthio)pyridine-N-oxide | CC1=[N+](C(=CC(=C1)SCCCO)C)[O-] | C10H15NO2S
